US06541638B2
To a suspension of 6.7 ml (103.3 mmol) methanesulfonic acid, 14.4 ml (103.3 mmol) triethylamine and 28.8 g (107.6 mmol) triphenylphosphine in 280 ml toluene was added a suspension of 21.12 g (86.12 mmol) (2R,4R)-4-Hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester [prepared according to “Synthesis of macrocyclic dilactones by cyclization of sulfonium salts”. T. Nakamura, H. Matsuyama, N. Kamigata, M. Iyoda, J. Org. Chem. (1992), 57(14), 3783-9] in 180 ml toluene. After adding 21.6 ml (112 mmol) of diisopropyl azodicaboxylate (exothermic!) the solution was heated for 2.5 h at 80° C. and was stirred at RT for 1 day. 300 ml water was added at RT and extracted with ethylacetate (3×300 ml). The organic phase was washed with aqueous 1M KHSO4 (2×100 ml), brine (2×150 ml), dried over Na2SO4 and evaporated to give 27.85 g (2R,4S)-4-Methanesulfonyloxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester as crude product which was dissolved in THF and treated with LiOH according to 5.2.to give (2R,4S)-4-Methanesulfonyloxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester.

reactant | methanesulfonic acid | 103.3 mmol, 6.7 ml | CS(=O)(=O)O | CH4O3S
reactant | triethylamine | 103.3 mmol, 14.4 ml | C(C)N(CC)CC | C6H15N
reactant | triphenylphosphine | 107.6 mmol, 28.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (2R,4R)-4-Hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 86.12 mmol, 21.12 g | COC(=O)[C@@H]1N(C[C@@H](C1)O)C(=O)OC(C)(C)C | C11H19NO5
reactant | diisopropyl azodicaboxylate | 112 mmol, 21.6 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | toluene | 280 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 180 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 300 ml | O | H2O
product | (2R,4S)-4-Methanesulfonyloxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 27.85 g | C(C)(C)(C)OC(=O)N1[C@H](C[C@@H](C1)OS(=O)(=O)C)C(=O)O | C11H19NO7S
